US05514680
The method of Cheeseman, supra. was adapted. 5,7-Dichloro-1,4-dihydroquinoxaline-2,3-dione (239 mg, 1.03 mMol) was dissolved in concentrated H2SO4 (3 mL) at 0° C. for 30 min, and KNO3 (125.3 mg, 1.24 mMol, Baker) was added to this solution. The mixture was stirred at 0° C. for 3 h and then was stirred at room temperature for 30 h. It was then poured into ice water (15 g). A precipitate came out and was collected by filtration, was dissolved in 1N KOH (10 mL) and the red precipitate was removed by filtration. The solution then was acidified to pH=2 with 4N HCl to give a cream precipitate, which was collected by filtration, then was dried in the air at 50° C. for 4 h to afford the pure 6-nitro-5,7-dichloro-1,4-dihydro-2,3-quinoxalinedione (231 mg, 80%), as yellow microcrystals. mp: 320°-25° C. (dec. from 290° C.). IR (KBr, cm-1): 3467, 3140, 3055, 2946, 1717, 1693, 1541. NMR (1H, DMSO-d6): δ7.221 (s, 1H), 11.932 (s, 1H), 12.312 (s, 1H). HRMS: calcd. for C8H3N3O4Cl2 (M+) m/z: 274.9499, found: 274.9509.

reactant | 5,7-Dichloro-1,4-dihydroquinoxaline-2,3-dione | 1.03 mMol, 239 mg | ClC1=C2NC(C(NC2=CC(=C1)Cl)=O)=O | C8H4Cl2N2O2
reactant | KNO3 | 1.24 mMol, 125.3 mg | [N+](=O)([O-])[O-].[K+]
solvent | H2SO4 | 3 mL | OS(=O)(=O)O | H2O4S
product | 6-nitro-5,7-dichloro-1,4-dihydro-2,3-quinoxalinedione | 231 mg, 80% | [N+](=O)([O-])C=1C(=C2NC(C(NC2=CC1Cl)=O)=O)Cl | C8H3Cl2N3O4
